US07244728B2
b) 4-chloro-1-(2-methyl-propenyl)-2-trifluoromethyl-benzene
8.00 g (42 mmol) 1-(4-chloro-2-trifluoromethyl-phenyl)-2-methyl-propan-1-ol and 2.5 g p-toluenesulphonic acid monohydrate in 200 mL toluene are refluxed overnight, while the water formed is captured using a water separator. The reaction mixture is left to cool, combined with water and the organic phase is separated off. It is extracted with toluene and the organic phases are combined and evaporated down. The residue is added to a short silica gel column and eluted with hexane. Colourless oil.

reactant | 1-(4-chloro-2-trifluoromethyl-phenyl)-2-methyl-propan-1-ol | 42 mmol, 8.00 g | ClC1=CC(=C(C=C1)C(C(C)C)O)C(F)(F)F | C11H12ClF3O
reactant | p-toluenesulphonic acid monohydrate | 2.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-1-(2-methyl-propenyl)-2-trifluoromethyl-benzene | ClC1=CC(=C(C=C1)C=C(C)C)C(F)(F)F | C11H10ClF3
